US04950768
Preparation of Pentamethylene 1,1-Ethanedisulfonate
1,5-Pentanediol (4.17 g, 0.04 mole) was dissolved in 350 ml of glyme in a 1 liter round bottom flask and the solution brought to -20° C. 1,1-ethanedisulfonyl chloride, synthesized in the same manner as the methanedisulfonyl chloride, (Example I) was dissolved in 25 ml of glyme and this solution added dropwise to the solution in the flask. Triethylamine (8.08 g, 0.08 mole) was dissolved in 125 ml of glyme and this solution was added to the pentanediol/ ethanedisulfonyl chloride solution over a 1 hour period. After the additions were completed, the mixture was brought to 25° C. over a 45 minute period in a water bath. The mixture was roto-evaporated under reduced pressure, at a temperature below 35° C. The residue was washed three times with 20 ml of 5% sodium bicarbonate the resulting emulsion being separated by centrifugation. Water was decanted from the final oil wash, and methylene chloride was added. This solvent apparently dissolved all or most of the impurities, leaving the product suspended in the solution. The product was obtained by vacuum filtering the solution through Whatman #5 qualitative filter papers.

reactant | 1,5-Pentanediol | 0.04 mole, 4.17 g | C(CCCCO)O | C5H12O2
reactant | 1,1-ethanedisulfonyl chloride | C(C)(S(=O)(=O)Cl)S(=O)(=O)Cl | C2H4Cl2O4S2
reactant | methanedisulfonyl chloride | C(S(=O)(=O)Cl)S(=O)(=O)Cl | CH2Cl2O4S2
reactant | Triethylamine | 0.08 mole, 8.08 g | C(C)N(CC)CC | C6H15N
reactant | pentanediol ethanedisulfonyl chloride | C(CCCC)(O)O.C(CS(=O)(=O)Cl)S(=O)(=O)Cl
solvent | glyme | 350 ml | C(OC)COC | C4H10O2
solvent | glyme | 25 ml | C(OC)COC | C4H10O2
solvent | glyme | 125 ml | C(OC)COC | C4H10O2
product | Pentamethylene 1,1-Ethanedisulfonate | C1(C)S(=O)(=O)OCCCCCOS1(=O)=O | C7H14O6S2
